US06797344B2
The resultant 1-[4-(2,4-dinitrophenoxy)phenoxy]octane (31.08 g, 0.080 mol) and ethanol (700 ml) and 10% Pd/C (1.50 g) were introduced into a 2-liter (l) reaction bottle. After hydrogen passed through the reaction under normal pressure for 4 hours, the reaction mixture was filtered and concentrated to obtain a crude product. The crude product was recrystallized by ethanol to obtain 1-[4-(2,4-diaminophenoxy)phenoxy]octane (22.33 g, 0.068 mol). Yield: 85%. Spectrum: IR (KBr) 3420, 3352, 2924, 2856, 1618, 1503, 1466, 1215, 1105, 1027 cm−1, 1H NMR (DMSO-d6, 300 MHz). δ0.8˜6.7 (m, 4H), 6.46 (d, J=8.3 Hz, 1H), 6.02 (d, J=2.0 Hz, 1H), 5.79 (dd, J=8.5, J=2.2 Hz, 1H), 4.61 (s, 2H), 4.47 (s, 2H), 3.82 (t, J=5.7 Hz, 2H), 1.70˜1.50 (m, 2H), 1.40˜1.10 (m, 10H), 0.84 (t, J=6.1 Hz, 3H). 13C NMR (DMSO-d6, 75 MHz). δ153.5, 152.7, 151.3, 146.1, 140.9, 133.4, 121.4, 116.8, 115.3, 103.2, 101.6, 68.0, 31.5, 29.0, 28.9, 25.7, 22.3, 14.1

reactant | 1-[4-(2,4-dinitrophenoxy)phenoxy]octane | 0.080 mol, 31.08 g | [N+](=O)([O-])C1=C(OC2=CC=C(OCCCCCCCC)C=C2)C=CC(=C1)[N+](=O)[O-] | C20H24N2O6
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 1.50 g | [Pd] | Pd
solvent | ethanol | 700 ml | C(C)O | C2H6O
product | 1-[4-(2,4-diaminophenoxy)phenoxy]octane | 0.068 mol, 22.33 g, Yield: 85% | NC1=C(OC2=CC=C(OCCCCCCCC)C=C2)C=CC(=C1)N | C20H28N2O2
